US04090025
1-(2-Acetoxyethyl)-4-phenyl-2-imidazolidone
Approximately 9.2 g of 1-(2-hydroxyethyl-4-phenyl-2-imidazolidone is stirred with acetic anhydride (25 ml.) and p-toluenesulfonic acid (200 mg.) for four hours, during which time the imidazolidone completely dissolves. The solution (100 ml.) from which a white solid precipitates. The solid is extracted with methylene chloride (3×100 ml.). The organic layer is separated, dried and the solvent removed to give a pale yellow solid. Recrystallization from ether gives the title compound as a white crystalline solid; m.p. 88°-90° C.

reactant | 2-hydroxyethyl-4-phenyl-2-imidazolidone | OCCN1C(NC(C1)C1=CC=CC=C1)=O | C11H14N2O2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | imidazolidone | N1C(NCC1)=O | C3H6N2O
product | 1-(2-Acetoxyethyl)-4-phenyl-2-imidazolidone | C(C)(=O)OCCN1C(NC(C1)C1=CC=CC=C1)=O | C13H16N2O3
